US08563717B2
Intermediate 62: 5-(3-Pyridinyl)-4-pentyn-1-ol
3-Bromopyridine (5.4 g, 34.2 mmol) was dissolved in triethylamine (10 ml) and degassed under nitrogen. 4-Pentyn-1-ol (3.50 ml, 37.6 mmol) was added followed by bis(triphenylphosphine)palladium (II) chloride (0.245 g, 0.349 mmol) and copper(I)iodide (0.136 g, 0.714 mmol) and the resulting mixture was stirred and heated under reflux for 20 mins. when a dark brown sludge was obtained. The mixture was cooled to rt and partitioned between EtOAc (200 ml) and water (50 ml). The aqueous phase was extracted further with EtOAc (2×100 ml); the combined organic extracts were dried (Na2SO4), filtered and evaporated in vacuo. The material was purified by column chromatography. The sample was loaded in dichloromethane and purified on silica (Si) 100 g using a gradient of 0-100% ethyl acetate in cyclohexane over 60 mins on the Flashmaster II. The appropriate fractions were combined and evaporated in vacuo to give the title compound as a yellow oil (4.99 g).

reactant | 3-Bromopyridine | 34.2 mmol, 5.4 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | 4-Pentyn-1-ol | 37.6 mmol, 3.50 ml | C(CCC#C)O | C5H8O
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.349 mmol, 0.245 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I)iodide | 0.714 mmol, 0.136 g | [Cu]I
product | 5-(3-Pyridinyl)-4-pentyn-1-ol | 4.99 g | N1=CC(=CC=C1)C#CCCCO | C10H11NO
